US04533731
To 4.3 g of 95% sulfuric acid was added 9.25 g of the 3-(3-diethylaminopropylamino)indazole, and the mixture was stirred for 3 hours at 80° C. To the mixture was added 13 ml of water, and the pH of the mixture was adjusted to 14 with potassium hydroxide. The mixture was washed twice with 20 ml of chloroform, and water was removed under reduced pressure. To the residue thus obtained were added 12.5 g of potassium hydroxide and 0.6 ml of water, and the mixture was stirred for 8 hours at 250° C. After cooling, to the mixture was added hydrochloric acid to separate crystals. Then the crystals were obtained by filtration and dried to give 4.39 g of 3-(3-diethylaminopropylamino)-5-hydroxyindazole having the following analytical values in a yield of 40%.

reactant | sulfuric acid | 4.3 g | S(O)(O)(=O)=O | H2O4S
reactant | 3-(3-diethylaminopropylamino)indazole | 9.25 g | C(C)N(CCCNC1=NNC2=CC=CC=C12)CC | C14H22N4
reactant | potassium hydroxide | [OH-].[K+]
reactant | potassium hydroxide | 12.5 g | [OH-].[K+]
reactant | hydrochloric acid | Cl | ClH
solvent | water | 0.6 ml | O | H2O
solvent | water | 13 ml | O | H2O
product | 3-(3-diethylaminopropylamino)-5-hydroxyindazole | 4.39 g, yield of 40% | C(C)N(CCCNC1=NNC2=CC=C(C=C12)O)CC | C14H22N4O
